US04510136
Preparation of (1,1'-Biphenyl-4-yl)dimethyl(5-methyl-1H-1,2,4-triazol-1-ylmethyl)silane
A solution of 5.9 g (0.020 mol) of (1,1'-biphenyl-4-yl)dimethyl(1H-1,2,4-triazol-1-ylmethyl)silane in 40 ml of dry tetrahydrofuran was chilled to -40° under N2 and stirred while 12.5 ml (0.020 mol) of 1.6 molar n-butyllithium in hexane was added dropwise. The resulting yellow solution was stirred another 15 minutes at -40°, treated with 1.9 ml (4.2 g, 0.030 mol) of methyl iodide, and allowed to warm to room temperature. The resulting solution was diluted with water and extracted with hexanes. Washing the organic extracts with water and brine, drying over magnesium sulfate, and evaporation give 5.7 g of solid, which was purified by dry-column chromatography over silica gel (ethyl acetate elution) to give 1.1 g of crude product. Recrystallization from 12 ml of 3:1 hexanesethyl acetate then gave 0.97 g (16%) of the title compound as an off white solid: m.p. 95°-98°; ir (Nujol® ) 1590, 1270, 1250, 1180, 1120, 830, 765, 700 cm-1 ; nmr (CDCl3) 0.5 (6H, s), 2.2 (3H, s), 3.7 (2H, s), 7.2-7.7 (9H, m), 7.8 (1H, s).

reactant | (1,1'-biphenyl-4-yl)dimethyl(1H-1,2,4-triazol-1-ylmethyl)silane | 0.020 mol, 5.9 g | C1(=CC=C(C=C1)[Si](CN1N=CN=C1)(C)C)C1=CC=CC=C1 | C17H19N3Si
reactant | n-butyllithium | 0.020 mol, 1.6 molar, 12.5 ml | C(CCC)[Li]
reactant | methyl iodide | 0.030 mol, 1.9 ml, 4.2 g | CI | CH3I
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | water | O | H2O
product | (1,1'-Biphenyl-4-yl)dimethyl(5-methyl-1H-1,2,4-triazol-1-ylmethyl)silane | 5.7 g | C1(=CC=C(C=C1)[Si](CN1N=CN=C1C)(C)C)C1=CC=CC=C1 | C18H21N3Si
